US07375220B2
To a suspension of 0.78 g (32.5 mmol) sodium hydride in 50 mL tetrahydrofurane was added at −5° C. under N2 a solution of 5 g (21.6 mmol) 3,4-dihydro-2,6-dimethyl-3-oxo-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide in 50 mL tetrahydrofurane. After termination of the hydrogen formation 6.5 g (55 mmol) phenylisocyanate dissolved in 50 mL tetrahydrofurane were added at −5° C. After stirring at room temperature the resulting mixture was quenched with ice/water and by addition of dilute HCl and then extracted with CH2Cl2 (2 times). The combined CH2Cl2 extracts were washed, dried and concentrated to give 6 g crude product. This material was recrystallized from ethanol to give 5.2 g 3,4-dihydro-2,6-dimethyl-3-oxo-2H-thieno[2,3-e]-1,2-thiazine-4-carboxanilide 1,1-dioxide.

reactant | sodium hydride | 32.5 mmol, 0.78 g | [H-].[Na+]
reactant | 3,4-dihydro-2,6-dimethyl-3-oxo-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide | 21.6 mmol, 5 g | CN1S(C2=C(CC1=O)SC(=C2)C)(=O)=O | C8H9NO3S2
reactant | hydrogen | [H][H] | H2
reactant | phenylisocyanate | 55 mmol, 6.5 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofurane | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 50 mL | O1CCCC1 | C4H8O
product | 3,4-dihydro-2,6-dimethyl-3-oxo-2H-thieno[2,3-e]-1,2-thiazine-4-carboxanilide 1,1-dioxide | 5.2 g, Yield: 69% | CN1S(C2=C(C(C1=O)C(=O)NC1=CC=CC=C1)SC(=C2)C)(=O)=O | C15H14N2O4S2
